US08486967B2
(4-Benzyl-6-methyl-pyrimidin-2-yl)-(3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-yl)-amine dihydrochloride
To a suspension of 4-benzyl-2-chloro-6-methyl-pyrimidine (WO2009103652; 70 mg, 0.32 mmol) and 4-(4-aminopiperidino)pyridine dihydrochloride (ABCR; 80 mg, 0.32 mmol) in dioxane (2 mL) was added potassium carbonate (885 mg, 6.4 mmol), palladium(II) acetate (3 mg, 0.013 mmol) and 2-(dicyclohexylphosphino)biphenyl (11 mg, 0.031 mmol). The reaction mixture was refluxed overnight, concentrated, hydrolyzed and extracted with ethyl acetate. Chromatography on Si-Amine (Silicycle, 10 g) using cyclohexane/ethyl acetate as eluent gave a gummy solid which was dissolved in dioxane and treated with a few drops of dioxane saturated with HCl gas to yield the title compound as a slightly yellow solid (70 mg, 51%).

reactant | 4-benzyl-2-chloro-6-methyl-pyrimidine | 0.32 mmol, 70 mg | C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)Cl | C12H11ClN2
reactant | 4-(4-aminopiperidino)pyridine dihydrochloride | 0.32 mmol, 80 mg | Cl.Cl.NC1CCN(CC1)C1=CC=NC=C1
reactant | potassium carbonate | 6.4 mmol, 885 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.031 mmol, 11 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | HCl | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | dioxane | a few drops | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.013 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4-Benzyl-6-methyl-pyrimidin-2-yl)-(3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-yl)-amine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)NC1CCN(CC1)C1=CC=NC=C1 | InChI=1S/C22H25N5.2ClH/c1-17-15-20(16-18-5-3-2-4-6-18)26-22(24-17)25-19-9-13-27(14-10-19)21-7-11-23-12-8-21;;/h2-8,11-12,15,19H,9-10,13-14,16H2,1H3,(H,24,25,26);2*1H
